US07732604B2
To a solution of 6-bromo-N2-(2,3-dihydro-benzofuran-5-ylmethyl)-pyrazine-2,3-diamine (1.0 g, 3.12 mmol) in AcOH:H2O (8 mL: 8 mL) was added the solution of NaNO2 (2.12 g, 31.2 mmol) in water (5 mL). The mixture was stirred at room temperature for 1 hour, and then heated at 65° C. for 16 hours. The solvents were removed, and then EtOAc (20 mL) and water (20 mL) were added. The aqueous layer was extracted with EtOAc (3×20 mL). The combined extracts were dried over Na2SO4, concentrated and purified by silica gel chromatography with EtOAc: Hexanes to provide 6-bromo-1-(2,3-dihydro-benzofuran-5-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine (543 mg, 52% yield).

reactant | 6-bromo-N2-(2,3-dihydro-benzofuran-5-ylmethyl)-pyrazine-2,3-diamine | 3.12 mmol, 1.0 g | BrC1=CN=C(C(=N1)NCC=1C=CC2=C(CCO2)C1)N | C13H13BrN4O
reactant | NaNO2 | 31.2 mmol, 2.12 g | N(=O)[O-].[Na+]
solvent | AcOH | CC(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
solvent | H2O | 8 mL | O | H2O
product | 6-bromo-1-(2,3-dihydro-benzofuran-5-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine | 543 mg, 52% yield | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=CC1=C(CCO1)C2 | C13H10BrN5O
